* Test: 4 d_cosim A-devices (ATmega328P, PB0=d_out[8])
R_pull1 pb0_dig 0 10k
R_pull2 pb0_dig2 0 10k
R_pull3 pb0_dig3 0 10k
R_pull4 pb0_dig4 0 10k

A_1 [pb0_dig] [pb0_an 0] dac_model
A_2 [pb0_dig2] [pb0_an2 0] dac_model
A_3 [pb0_dig3] [pb0_an3 0] dac_model
A_4 [pb0_dig4] [pb0_an4 0] dac_model
.model dac_model dac_bridge(out_low=0.0 out_high=5.0 input_load=1e12)

A_DEV1 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim1
A_DEV2 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig2 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim2
A_DEV3 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig3 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim3
A_DEV4 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig4 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim4

.model cosim1 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim2 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim3 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim4 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)

.options reltol=0.005 method=gear trtol=7 chgtol=1e-13
.tran 5us 300us
.control
run
print v(pb0_an) v(pb0_an2) v(pb0_an3) v(pb0_an4)
.endc
.end
