* Test: 6 d_cosim A-devices (ATmega328P, PB0=d_out[8])
R_pull1 pb0_dig1 0 10k
R_pull2 pb0_dig2 0 10k
R_pull3 pb0_dig3 0 10k
R_pull4 pb0_dig4 0 10k
R_pull5 pb0_dig5 0 10k
R_pull6 pb0_dig6 0 10k
A_dac1 [pb0_dig1] [pb0_an1 0] dac_model
A_dac2 [pb0_dig2] [pb0_an2 0] dac_model
A_dac3 [pb0_dig3] [pb0_an3 0] dac_model
A_dac4 [pb0_dig4] [pb0_an4 0] dac_model
A_dac5 [pb0_dig5] [pb0_an5 0] dac_model
A_dac6 [pb0_dig6] [pb0_an6 0] dac_model
.model dac_model dac_bridge(out_low=0.0 out_high=5.0 input_load=1e12)

A_AVR1 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig1 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim1
A_AVR2 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig2 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim2
A_AVR3 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig3 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim3
A_AVR4 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig4 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim4
A_AVR5 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig5 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim5
A_AVR6 [0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0 pb0_dig6 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0]
+ cosim6

.model cosim1 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim2 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim3 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim4 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim5 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)
.model cosim6 d_cosim(simulation="./cosim/libavr_cosim.so" sim_args=["atmega328p","toggle.hex"] queue_size=1024 irreversible=1 delay=1e-9)

.options reltol=0.005 method=gear trtol=7 chgtol=1e-13
.tran 5us 300us
.control
run
print v(pb0_an1) v(pb0_an2) v(pb0_an3) v(pb0_an4) v(pb0_an5) v(pb0_an6)
.endc
.end
